US08937092B2
To a stirred solution of ethyl 2-(4-iodo-3-methylphenyl)propanoate (1.22 g, 5.34 mmol) in anhydrous dimethylformamide were added zinc cyanide (645 mg, 5.50 mmol) and tetrakis(triphenylphosphine) palladium (617 mg, 0.53 mmol). The reaction mixture was refluxed for overnight then cooled to room temperature. The mixture was filtered using celite pad and the filtrate was evaporated. The residue was diluted with ethylacetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to get the crude. The crude was purified by column chromatography. Ethyl 2-(4-cyano-3-methylphenyl)propanoate (1.05 g) was obtained as 90% yield.

reactant | ethyl 2-(4-iodo-3-methylphenyl)propanoate | 5.34 mmol, 1.22 g | IC1=C(C=C(C=C1)C(C(=O)OCC)C)C | C12H15IO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 5.50 mmol, 645 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium | 0.53 mmol, 617 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 2-(4-cyano-3-methylphenyl)propanoate | 1.05 g, 90% yield | C(#N)C1=C(C=C(C=C1)C(C(=O)OCC)C)C | C13H15NO2
